US05719182
i) (1RS,2SR,3RS)-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indan-2-ylacetic acid
To a solution of 1RS,2RS,3RS)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane (290 mg, 0.56 mmol) in methanol (ca. 1 ml) was added aqueous 2N NaOH solution (0.3 ml) followed by H2O (8 ml) then (with caution) Na2O2 (120 mg). The mixture was heated to 70° C. and stirred for 20 h at which time HPLC showed only 15% hydrolysis. The mixture was stirred at 85° C. for 3 days with 3 (100 mg) portions of Na202 added each day. the reaction mixture was partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O then brine, dried (Na2SO4) and solvent removed in vacuo to afford the product as an oil (228 mg, 90% pure by HPLC) Final purification was obtained by crystallization as the his cyclohexylamine salt. mp 210°-212° C.

reactant | 3-(2-carboxymethoxy-4-methoxyphenyl)-2-cyanomethyl-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 0.56 mmol, 290 mg | C(=O)(O)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC#N | C30H29NO7
reactant | NaOH | 2N, 0.3 ml | [OH-].[Na+]
reactant | H2O | 8 ml | O | H2O
solvent | methanol | ca. 1 ml | CO | CH4O
product | (1RS,2SR,3RS)-3-(2-Carboxymethoxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indan-2-ylacetic acid | 228 mg, 90% | C(=O)(O)COC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)CC(=O)O | C30H30O9
